US07253286B2
(4-(5-Aminothiophen-2-ylsulfanyl)-7-methoxyquinoline-6-carboxamide)
After suspending 7-methoxy-4-(5-nitrothiophen-2-ylsulfanyl)quinoline-6-carboxamide (320 mg, 0.885 mmol), iron (247 mg, 4.43 mmol) and ammonium chloride (481 mg, 8.85 mmol) in an ethanol (8 ml)—water (2 ml)—dimethylformamide (1 ml) mixed solvent, the suspension was heated and stirred at 80° C. for 15 minutes. After completion of the reaction, the reaction mixture was filtered with celite and washed in a tetrahydrofuran-methanol mixed solvent. After adding ethyl acetate to the organic layer, it was washed with water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:methanol=20:1), and the fraction containing the target substance was concentrated to obtain the title compound (164 mg, 0.495, mmol, 56%) as yellowish-brown crystals.

reactant | 7-methoxy-4-(5-nitrothiophen-2-ylsulfanyl)quinoline-6-carboxamide | 0.885 mmol, 320 mg | COC1=C(C=C2C(=CC=NC2=C1)SC=1SC(=CC1)[N+](=O)[O-])C(=O)N | C15H11N3O4S2
reactant | ammonium chloride | 8.85 mmol, 481 mg | [Cl-].[NH4+]
reactant | ethanol | 8 ml | C(C)O | C2H6O
reactant | water | 2 ml | O | H2O
catalyst | iron | 4.43 mmol, 247 mg | [Fe] | Fe
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-(5-Aminothiophen-2-ylsulfanyl)-7-methoxyquinoline-6-carboxamide | 164 mg, 56% | NC1=CC=C(S1)SC1=CC=NC2=CC(=C(C=C12)C(=O)N)OC | C15H13N3O2S2
